US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-yl)urea (FB52)
The title compound was prepared as described in Example 95 using 2-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine (CB28) and (Z)-4-nitrophenyl(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50), purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and isolated as a brown oil (0.018 g, 9%).

reactant | 2-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine | CC(CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)(C)N | C19H19F3N4O
reactant | (Z)-4-nitrophenyl(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | [N+](=O)([O-])C1=CC=C(C=C1)C1C(N(/C(/S1)=N/C([O-])=O)C1=C(C=CC(=C1)C)C(C)C)=O
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-methyl-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-yl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NC(CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)(C)C | C33H33F3N6O3S
